US08076332B2
N-(2-t-Butoxycarbonylaminophenyl)-4-[3-(4-dimethylamino phenyl)-1-[3-(N-ethyl-N-methylamino)propyl]ureidomethyl]benzamide (Reference Compound No. 18-1)
Under ice cooling, methanesulfonyl chloride (0.30 mL, 3.9 mmol) was added to a solution of N-(2-t-butoxycarbonylaminophenyl)-4-[3-(4-dimethylamino phenyl)-1-(3-hydroxypropyl)ureidomethyl]benzamide (Reference Compound No. 13-79, 200 mg, 0.36 mmol) and triethylamine (0.68 mL, 4.9 mmol) in anhydrous dichloromethane (5.0 mL), and then the reaction mixture was stirred for 7 hours. Water (100 mL) was added thereto, the whole was extracted with ethyl acetate (100 mL), and then the organic layer was washed with brine (100 mL). The organic layer was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. Anhydrous dichloromethane (1.0 mL) and ethylmethylamine (0.03 mL, 0.35 mmol) were added to the residue, and then the mixture was stirred at room temperature for 5 hours. Water (50 mL) was added thereto, the whole was extracted with ethyl acetate (50 mL) and then the organic layer was washed with brine (50 mL). After the organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) to give 9.0 mg of the title reference compound as colorless oil. (Yield 4%)

reactant | methanesulfonyl chloride | 3.9 mmol, 0.30 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(2-t-butoxycarbonylaminophenyl)-4-[3-(4-dimethylamino phenyl)-1-(3-hydroxypropyl)ureidomethyl]benzamide | 0.36 mmol, 200 mg | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CN(C(=O)NC1=CC=C(C=C1)N(C)C)CCCO)=O | C31H39N5O5
reactant | triethylamine | 4.9 mmol, 0.68 mL | C(C)N(CC)CC | C6H15N
reactant | ethylmethylamine | 0.35 mmol, 0.03 mL | C(C)NC | C3H9N
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | Water | 50 mL | O | H2O
solvent | Water | 100 mL | O | H2O
product | N-(2-t-Butoxycarbonylaminophenyl)-4-[3-(4-dimethylamino phenyl)-1-[3-(N-ethyl-N-methylamino)propyl]ureidomethyl]benzamide | Yield 4% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CN(C(=O)NC1=CC=C(C=C1)N(C)C)CCCN(C)CC)=O | C34H46N6O4
